US07319104B2
A solution of methyl 2-methyl-4-[(E)-2-nitroethenyl]phenyl ether (7.89 g; 40.88 mmol) in dry THF (50 ml) was added to borane (245 ml of 1M solution in THF; 245 mmol), under nitrogen, dropwise over 20 minutes. The reaction mixture was then heated to 90C. After 14 hr it was cooled to rt and ice-cold water (100 ml) was added dropwise over 30 minutes. The pH was adjusted to ˜2 with 1N HCl and heated to reflux for 5 hr. Upon cooling, the reaction mixture was extracted with ethyl ether (2×300 ml) and the ether phases were discarded. The pH of the aqueous phase was adjusted to 10 with 1N NaOH and extracted with ethyl ether (2×200 ml). The combined organic phases were dried over MgSO4, filtered and concentrated to provide 2-(4-methoxy-3-methylphenyl)ethanamine (5.46 g; 81% yield), which was used without any further purification.

reactant | methyl 2-methyl-4-[(E)-2-nitroethenyl]phenyl ether | 40.88 mmol, 7.89 g | CC1=C(C=CC(=C1)\C=C\[N+](=O)[O-])OC | C10H11NO3
reactant | borane | 245 mmol, 1M, 245 ml | B | BH3
reactant | HCl | 1N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(4-methoxy-3-methylphenyl)ethanamine | 5.46 g, 81% yield | COC1=C(C=C(C=C1)CCN)C | C10H15NO
